US06969714B2
1-[3-(N,N-Dimethylamino)propylthio]-4-bromobenzene
3-(Dimethylamino)propyl chloride hydrochloride (3.48 g, 22 mmol) was added in portions to a suspension of 4-bromothiophenol (3.78 g, 20 mmol) and potassium carbonate (5.52 g, 40 mmol) in DMF (40 ml) and the reaction mixture heated to 60° C. for 15 minutes. The mixture was allowed to cool to ambient temperature and poured into water (100 ml) and extracted with EtOAc (2×100 ml). The extracts were combined, washed with brine (3×100 ml), dried (Chemelut column 1010) and evaporated to give the title compound (5.25 g, 96%) as a pale yellow oil. NMR 1.76 (m, 2H), 2.20 (s, 6H, 2.35 (t, 2H, 2.93 (t, 2H), 7.18 (d, 2H, 7.38 (d, 2H); m/z 276.

reactant | 3-(Dimethylamino)propyl chloride hydrochloride | 22 mmol, 3.48 g | Cl.CN(CCCCl)C
reactant | 4-bromothiophenol | 20 mmol, 3.78 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | potassium carbonate | 40 mmol, 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-[3-(N,N-Dimethylamino)propylthio]-4-bromobenzene | 5.25 g, 96% | CN(C)CCCSC1=CC=C(C=C1)Br | C11H16BrNS
